datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C(C)[CH]([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[O]2.[H][O:10][H] 21=20;20,10=10"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])CCCCCC)C1=CC=CC=C1>>CCCCCCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"C[O+:10]([H])[C:20]([O:21]C)([O]CC)[O][H].[Cl-]>>[Cl-].C[O:10][H].C[O+:21]=[C:20]([O]CC)[O][H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)[O]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C([H])[S]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C([H])[CH]([H])[S]1 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)[H])C)CC)[O-:10])C>>CCN([C:20](=[O:10])OC(C(C([O-:21])[H])C)CC)C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)C([H])=C([H])C(C)[O+:10]1([Na])>>[O:10]([Na])C(C)/C([H])=C([H])\C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])CCCCCC)[H]>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)[H].[Cl-:21] 10=20;20,21=21"
"[OH:10]C(CCC)C([H])/C([H])=C([H])\[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C([H])=C([H])C([H])C(CCC)[OH+:10]1 10=20;20,21=21"
"CCN([C:20]([O-:10])([O:21]N1C(=O)CCC1=O)C1=CC=CC=C1)[H]>>CCN([C:20](=[O:10])C1=CC=CC=C1)[H].C1CC(=O)N(C1=O)[O-:21] 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)C)C>>[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)C.[O-:21]CCCCCC 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O+:10]([Na])C([H])C(C)=C1C>>[O:10]([Na])C([H])/C(C)=C([C:20](OC)=[O:21])/C 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C(C)[CH](CC)[NH]1 10=20;20,21=21"
"[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][NH:10][H].C[NH+:21]=[C:20]([NH]C)[O][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]([NH:21]C)([NH]C)[O][H] 10=20;20,21=21"
"[H][O:10]C(CC)C([H])C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C(CC)[NH]1)[C:20]1([NH:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([Na])C(CCC)C([H])C(O)C(C)[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C(C)C(O)C([H])C(CCC)[O+:10]1([Na]) 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OCCCCCC)CCCCCC.[O-:21]CCCCCC>>CCCCCCN([C:20]([O-:10])(OCCCCCC)[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:10](C([H])C([H])[NH]1)[C:20]1([NH:21]C)[NH]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[NH][C:20]([NH]CC)=[NH+:21]C 21=20;20,10=10"
"[O-:21][C:20]1(C)[O:10]C(C)C(C)N1[H]>>[O-:10]C(C)C(C)N([C:20](C)=[O:21])[H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[O]C(C7=CC=CC=C7)C(CC)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(CC)[S]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])[O][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[O]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"[Li][O:21]C.[C:20](=[O:10])(OCC)OCC>>[Li][O+:21]([C:20]([O-:10])(OCC)OCC)C 21=20;20,10=10"
"[O-:21][C:20]1(C)C(O)C(O)C(C)C(C)[NH+:10]1(C)>>[NH:10](C)C(C)C(C)C(O)C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S]C(C)C(C)[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)CC)CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)CC)CCCCCC.[O-:21]CC 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)CCCCCC)[H]>>[H]N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)CCCCCC)[O-:10])[H] 21=20;20,10=10"
"[O:10]([K])C(CCC)C(C)C([H])C([H])[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])C([H])C(C)C(CCC)[O+:10]1([K]) 10=20;20,21=21"
"[H][NH+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[NH][CH](CC)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)C>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1C1=CC=CC=C1)C.[O-:21]CC 10=20;20,21=21"
"C9=CC=CC=C9[O+:10]([H])[C:20]([NH:21]CC)([NH]C)[O]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O:10][H].CC[NH+:21]=[C:20]([NH]C)[O]C 21=20;20,10=10"
